US05362878
Commercially available 4-chlorobenzaldehyde (10 g) was cyclized with aminoacetaldehyde diethyl acetal according to the procedure of Hendrickson, et al., J. Org. Chem., 48, 3344 (1983), to give 6-chloroisoquinoline (600 mg). Nitration of the obtained product using the procedure of Campbell et al., J. Am. Chem. Soc., 68, 1559 (1946) gave 6-chloro-5-nitroisoquinoline (700 mg). Substitution of 6-chloro for thiomethoxide according to the procedure of Massie, Iowa State Coll. J. Sci., 21, 41 (1946) (Ca 41:3033 g) gave 6-methylthio-5-nitroisoquinoline (632 mg). This material (200 mg) was reduced using stannous chloride (2.0 g) and concentrated hydrochloric acid (30 ml) to give 5-amino-6-(methylthio) isoquinoline (143 mg). This material (140 mg) was coupled with 2-hexylthiodecanoic acid (prepared according to the procedures described in Examples 1 and 3) using the procedure described in Example 25 to give the title compound (80 mg).

reactant | 4-chlorobenzaldehyde | 10 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | aminoacetaldehyde diethyl acetal | C(C)OC(CN)OCC | C6H15NO2
product | 6-chloroisoquinoline | 600 mg | ClC=1C=C2C=CN=CC2=CC1 | C9H6ClN
